US04168315
Step I -- p-Chloro-2-(p-chlorophenyl)acetophenone
Aluminum trichloride (11.75 g.; 0.088 mole) was added portionwise to a stirred mixture of the p-chlorophenylacetyl chloride and chlorobenzene (30 ml.). Following addition, the mixture was allowed to stand for 24 hours. The resulting dark brown paste was scooped out and stirred into a slurry of ice and conc. hydrochloric acid which was then extracted with methylene chloride. The organic extracts were washed with 1 N hydrochloric acid, saturated sodium bicarbonate, saturated sodium chloride; dried over sodium sulfate and concentrated in vacuo. Recrystallization from methanol afforded 16.47 g. (71% yield), m.p. 111.5°-114° C.

reactant | Aluminum trichloride | 0.088 mole, 11.75 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | p-chlorophenylacetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | chlorobenzene | 30 ml | ClC1=CC=CC=C1 | C6H5Cl
product | p-Chloro-2-(p-chlorophenyl)acetophenone | ClC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Cl)=O | C14H10Cl2O
